US08685969B2
5. 9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide
A mixture of 9-bromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide (250 mg, 0.466 mmol), 3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one (186 mg, 0.513 mmol), and 2 M aqueous sodium carbonate (0.699 mL, 1.398 mmol) in toluene (4 mL) and ethanol (1 mL) was degassed by bubbling with argon for ca. 5-10 min (1 minute with sonication). The mixture was treated with tetrakis(triphenylphosphine)palladium (26.9 mg, 0.023 mmol) and heated at 90° C. under argon. After 16 h, the mixture was cooled to room temperature, diluted with EtOAc and a small amount of water and the layers were separated. The aqueous phase was extracted with EtOAc and the combined organic phases were filtered, dried and concentrated. The residue was subjected to column chromatography on silica gel (40 g), eluting with EtOAc-hexane (gradient from 15:85 to 100:0) to provide the desired product as a light yellow glass (243 mg, 70% yield). LCMS (M+H-trityl)+ m/z 450.2.

reactant | 9-bromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 0.466 mmol, 250 mg | BrC1=C2C3=C(NC2=C(C=C1)C(=O)N)CCN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3 | C31H26BrN3O
reactant | 3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one | 0.513 mmol, 186 mg | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C=NC2=CC=CC=C2C1=O | C21H23BN2O3
reactant | sodium carbonate | 1.398 mmol, 2 M, 0.699 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.023 mmol, 26.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 243 mg, 70% yield | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)CCN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3 | C46H37N5O2
